US07087599B2
A solution of 9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (555 mg, 1.82 mmol) in anhydrous dichloromethane (18.2 mL) was treated with sodium bicarbonate (765 mg, 9.1 mmol) and bromine (0.093 mL, 1.82 mmol). The mixture was stirred at room temperature for 30 minutes and then diluted with CH2Cl2 (50 mL) and washed with water (50 mL). The organic phase was dried over MgSO4, filtered through a pad of silica gel (10 mL) with a 10 mL CH2Cl2 rinse, and the solvent evaporated under vacuum. The residue (0.55 g) was lyophilized from benzene to afford 4-bromo-9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 1.82 mmol, 555 mg | C(CCC)C12CC3=C(C(=CC=C3C2=CC(CC1)=O)OC)Cl | C18H21ClO2
reactant | sodium bicarbonate | 9.1 mmol, 765 mg | C([O-])(O)=O.[Na+]
reactant | bromine | 1.82 mmol, 0.093 mL | BrBr | Br2
solvent | dichloromethane | 18.2 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-9a-butyl-8-chloro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | BrC=1C(CCC2(CC3=C(C(=CC=C3C12)OC)Cl)CCCC)=O | C18H20BrClO2
